US08426420B2
ii) piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 18.0 g piperazine-1,4-dicarboxylic acid butyl ester tert-butyl ester in 70 ml dichloromethane were added 23 ml TFA. After stirring for 12 h the solution was concentrated and the residue codistilled with toluene twice. Yield: 18.5 g.

reactant | piperazine-1,4-dicarboxylic acid butyl ester tert-butyl ester | 18.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCCCC | C14H26N2O4
reactant | TFA | 23 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
